US05922880
To a mixture of 0.4 g of 2-[2-(4-chlorophenyl)-1,3-dioxolan-4-yl]ethanol, 0.46 g of triphenylphosphine and 6 ml of tetrahydrofuran was added dropwise 0.35 ml of diisopropyl azodicarboxylate, while stirring at room temperature. After further stirring for 15 minutes, a solution of 0.5 g of 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol in 2 ml of tetrahydrofuran was added. After stirring continued at room temperature for 3 hours, the reaction mixture was concentrated, and the residue was subjected to silica gel chromatography, which afforded 0.3 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-[2-[2-(4-chlorophenyl)-1,3-dioxolan-4-yl]ethoxy]benzene (35% yield), m.p. 84.1°

reactant | 2-[2-(4-chlorophenyl)-1,3-dioxolan-4-yl]ethanol | 0.4 g | ClC1=CC=C(C=C1)C1OCC(O1)CCO | C11H13ClO3
reactant | triphenylphosphine | 0.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.35 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol | 0.5 g | ClC(=CCOC1=CC(=C(C(=C1)Cl)O)Cl)Cl | C9H6Cl4O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-[2-[2-(4-chlorophenyl)-1,3-dioxolan-4-yl]ethoxy]benzene | 0.3 g, 35% yield | ClC=1C=C(C=C(C1OCCC1OC(OC1)C1=CC=C(C=C1)Cl)Cl)OCC=C(Cl)Cl | C20H17Cl5O4
